US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
7.4 g of 4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide in 60 ml of methanol were combined with 4 ml of triethylamine, heated for 5 minutes to 50° C on the steam bath and precipitation was effected with 250 ml of water. M.p. 187°-190° C (decomposition).

reactant | 4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 7.4 g | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | water | 250 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O | C11H13Cl2N3O3S2
